US07414076B2
Preparation of 3-pivaloylamino-1-propanesulfonic acid (Compound DT)
3-amino-1-propanesulfonic acid (2.0 g, 14.4 mmol) was dissolved a NaOH (1.2 g, 30.2 mmol) solution in a mixture of 1,4-dioxane (5 mL) and water (15 mL). The mixture was cooled to 0° C. before pivaloyl chloride (2.8 mL, 21.6 mmol) in 1,4-dioxane (5 mL) was added dropwise. The reaction mixture was allowed to warm up to room temperature and it was stirred at 65° C. for 4 h. The solvent was evaporated under reduced pressure. The resulting solid was dissolved in water (30 mL), and treated with Dowex 50WX8 resin. The suspension was stirred for 5 minutes and the resin was removed by filtration. The filtrate was evaporated under reduced pressure. The residual material was suspended in 20% EtOH/Acetone. The mixture was stirres at reflux for 30 seconds. The solid product was collected by filtration, and dried in vacuo, to afford compound DT (1.3 g, 41%). 1H NMR (D2O, 500 MHz) δ ppm 3.16 (t, 2H, J=6.8 Hz), 2.75 (t, 2H, J=7.8 Hz), 1.78 (m, 2H), 1.1 (s, 9H). 13C NMR (D2O, 125 MHz) δ ppm 182.75, 48.70, 38.57, 38.18, 26.65, 24.27. ES-MS 222 (M−1).

reactant | 3-amino-1-propanesulfonic acid | 14.4 mmol, 2.0 g | NCCCS(=O)(=O)O | C3H9NO3S
reactant | NaOH | 30.2 mmol, 1.2 g | [OH-].[Na+]
reactant | pivaloyl chloride | 21.6 mmol, 2.8 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 15 mL | O | H2O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 3-pivaloylamino-1-propanesulfonic acid | C(C(C)(C)C)(=O)NCCCS(=O)(=O)O | C8H17NO4S
